US08309580B2
(8) 4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methoxy)benzoic acid
To a mixture of cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methanol (648 mg) synthesized above, methyl 4-hydroxybenzoate (321 mg), 1,1′-(azodicarbonyl)dipiperidine (888 mg) and tetrahydrofuran (20 mL) was added tributylphosphine (877 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, the precipitate was removed by filtration, and washed with diisopropyl ether. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9, volume ratio) to give a yellow oil. To a mixture of the obtained oil, tetrahydrofuran (10 mL) and ethanol (10 mL) was added 2N aqueous sodium hydroxide solution (5 mL), and the mixture was stirred at 50° C. for 2 hr. 1N Hydrochloric acid (10 mL) was added to the reaction mixture, the organic solvent was evaporated under reduced pressure, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4, volume ratio) to give the title compound (413 mg, 85%) as a white solid.

reactant | cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methanol | 648 mg | C1(CCCCC1)C(O)C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C20H23F3OS
reactant | methyl 4-hydroxybenzoate | 321 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 888 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 877 μL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methoxy)benzoic acid | 413 mg, 85% | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C27H27F3O3S
